US04176184
7,7-Dimethyl-2-cyclopropyl-5-(3-diethylamino-propyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione
Prepared analogous to Example 23 from 2.45 gm of 7,7-dimethyl-2-cyclopropyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride and 2.3 gm of 3-diethylamino-propyl bromide hydrobromide. The crude product was purified by chromatography on a silicagel column (eluant: chloroform with increasing content of acetone).

reactant | 7,7-dimethyl-2-cyclopropyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride | 2.45 gm | Cl.CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3CC3)C
reactant | 3-diethylamino-propyl bromide hydrobromide | 2.3 gm | Br.C(C)N(CCCBr)CC
product | 7,7-Dimethyl-2-cyclopropyl-5-(3-diethylamino-propyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | CC1(N=CC2=C3C(C(C(C2C1=O)CCCN(CC)CC)=O)=NC(=N3)C3CC3)C | C22H30N4O2
